US04055570
1,3-bis-(4'-phenoxycarbonylphenylmethyl)-2,2-dimethylimidazolidine-4,5-dion
To a solution of 10 g (0.106 mole) of phenol in 20 ml of pyridine are added at room temperature, with stirring, 5 g (0.0115 mole) of 1,3-bis-(4'-chlorocarbonylphenylmethyl)-2,2-dimethylimidazolidine-4,5-dione.

reactant | phenol | 0.106 mole, 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,3-bis-(4'-chlorocarbonylphenylmethyl)-2,2-dimethylimidazolidine-4,5-dione | 0.0115 mole, 5 g | ClC(=O)C1=CC=C(C=C1)CN1C(N(C(C1=O)=O)CC1=CC=C(C=C1)C(=O)Cl)(C)C | C21H18Cl2N2O4
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-bis-(4'-phenoxycarbonylphenylmethyl)-2,2-dimethylimidazolidine-4,5-dion | O(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)CN1C(N(C(C1=O)=O)CC1=CC=C(C=C1)C(=O)OC1=CC=CC=C1)(C)C | C33H28N2O6
